US07960404B2
Stage 2: (8-Benzyl-1,4-dioxaspiro[4,5]dec-8-yl)(4-methoxybenzyl)amine
In a heated flask a 0.6 M solution of (1,4-dioxaspiro[4,5]dec-8-ylidene)-(4-methoxybenzyl)amine in tetrahydrofuran (17 ml, 10 mmol) was added slowly dropwise under argon and with ice cooling to a 2 M solution of benzyl magnesium chloride in tetrahydrofuran (10 ml, 20 mmol). The mixture was stirred for 20 h at room temperature and then added dropwise to 20% ammonium chloride solution (20 ml) with iced water cooling. The organic phase was separated off and the aqueous phase was extracted with diethyl ether (3×20 ml). The combined organic phases were washed with 2 N sodium hydroxide solution (20 ml) and water (20 ml), dried with sodium sulfate and concentrated to small volume under vacuum. The crude product (3.7 g) was purified by flash chromatography (370 g, 22×7.5 cm) with ethyl acetate/cyclohexane (1:2) with 1% triethylamine. Yield: 1.27 g (34%), yellowish oil.

reactant | (1,4-dioxaspiro[4,5]dec-8-ylidene)-(4-methoxybenzyl)amine | O1CCOC12CCC(CC2)=NCC2=CC=C(C=C2)OC | C16H21NO3
reactant | tetrahydrofuran | 10 mmol, 17 ml | O1CCCC1 | C4H8O
reactant | benzyl magnesium chloride | C(C1=CC=CC=C1)[Mg]Cl
reactant | tetrahydrofuran | 20 mmol, 10 ml | O1CCCC1 | C4H8O
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | water | O | H2O
product | (8-Benzyl-1,4-dioxaspiro[4,5]dec-8-yl)(4-methoxybenzyl)amine | C(C1=CC=CC=C1)C1(CCC2(OCCO2)CC1)NCC1=CC=C(C=C1)OC | C23H29NO3
